US04105673
To a refluxing solution of 510 mg (2.0 mmol) of 2-chloro-1-methylpyridinium iodide in 50 ml of acetonitrile, there was added a solution of 150 mg (0.5 mmol) of 12-hydroxyoctadecanoic acid and 404 mg (4.0 mmol) of triethylamine in 40 ml of acetonitrile over a period of 8 hours at a continuous and uniform rate, and the reaction mixture was refluxed for an additional 30 minutes after the addition was completed. After evaporation of the solvent, the residue was separated chromatographically on a silica gel column. 12-hydroxyoctadecane-1,12-lactone was obtained in 66% yield.

reactant | 2-chloro-1-methylpyridinium iodide | 2.0 mmol, 510 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 12-hydroxyoctadecanoic acid | 0.5 mmol, 150 mg | OC(CCCCCCCCCCC(=O)O)CCCCCC | C18H36O3
reactant | triethylamine | 4.0 mmol, 404 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 12-hydroxyoctadecane-1,12-lactone | 66% yield | OC1(CCCCCCCCCCC(=O)O1)CCCCCC | C18H34O3
